US06538148B2
Step C: Preparation of (1-Cyanocyclohexyl)acetic acid
To a solution of 2.4 mL (2.4 g, 22 mmol) of anisole in 50 mL of trifluoroacetic acid is added 5.00 g (22.4 mmol) of (1-cyanocyclohexyl)acetic acid, 1-butyl ester. The reaction is monitored (TLC) for the loss of starting material and when the reaction is complete it is concentrated under reduced pressure. Water (˜10 mL) is added to the residue and the mixture is adjusted to pH=10-12 with base (NaOH). The basic aqueous layer is extracted with a suitable organic solvent (EtOAc) to remove impurities. The aqueous layer is acidified with acid (HCl) to pH=0-4 and extracted with a suitable solvent (EtOAc). The combined organic extracts of the acidified aqueous layer are dried and concentrated under reduced pressure to afford the product.

reactant | anisole | 22 mmol, 2.4 mL, 2.4 g | C1(=CC=CC=C1)OC | C7H8O
reactant | (1-cyanocyclohexyl)acetic acid, 1-butyl ester | 22.4 mmol, 5.00 g | C(#N)C1(CCCCC1)CC(=O)OCCCC | C13H21NO2
solvent | trifluoroacetic acid | 50 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (1-Cyanocyclohexyl)acetic acid | C(#N)C1(CCCCC1)CC(=O)O | C9H13NO2
